US07728030B2
1-{(1S,2R)-2-{[1-(4-Fluorophenyl)-1H-indazole-5-yl]oxy}-1-methyl-2-phenylethyl}-3-(2-furylmethyl)urea
(αS,βR)-β-{[1-(4-Fluorophenyl)-1H-indazole-5-yl]oxy}-α-methylbenzeneethanamine (100 mg, 0.28 mmol), as described in Example 1, is dissolved in 1.77 mL dichloromethane and furylmethylisocyanate (34.1 mg, 0.28 mmol) is dropwise added. After stirring for 45 min at r.t. the solvent is removed and the residue purified by chromatography (silicagel, eluents: hexane/ethylacetate). 116.2 mg (86.7%) of the title compound are obtained.

reactant | (αS,βR)-β-{[1-(4-Fluorophenyl)-1H-indazole-5-yl]oxy}-α-methylbenzeneethanamine | 0.28 mmol, 100 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@@H](N)C)C1=CC=CC=C1 | C22H20FN3O
reactant | furylmethylisocyanate | 0.28 mmol, 34.1 mg | O1C(=CC=C1)CN=C=O | C6H5NO2
solvent | dichloromethane | 1.77 mL | ClCCl | CH2Cl2
product | 1-{(1S,2R)-2-{[1-(4-Fluorophenyl)-1H-indazole-5-yl]oxy}-1-methyl-2-phenylethyl}-3-(2-furylmethyl)urea | 116.2 mg, 86.7% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)NC(=O)NCC=1OC=CC1)C1=CC=CC=C1 | C28H25FN4O3
